US09351974B2
Step b: Synthesis of (7R)-2-chloro-8-cyclohexyl-7-methyl-5-(1-oxidopyridin-3-yl)-7,8-dihydropteridin-6(5H)-one
To a stirred solution of (7R)-2-chloro-8-cyclohexyl-7-methyl-5-(pyridin-3-yl)-7,8-dihydropteridin-6(5H)-one (51.2 mg, 0.143 mmol) in dichloromethane (2.5 mL) was added mCPBA (77% max, 33.7 mg, 0.150 mmol) at rt, and the solution was stirred at rt. More mCPBA (77% max, 10.2 mg, 0.0455 mmol) was added after 2.5 h, and stirring at rt was continued for additional 4 h. The reaction solution was diluted with dichloromethane (15 mL), washed with aq. NaHCO3 solution (20 mL×2), dried over Na2SO4, and concentrated in vacuo to give a crude residue, which was then purified by silica gel column chromatography (eluent: 5% methanol in dichloromethane) to give the desired product (0.116 mmol, 81% yield). 1H NMR (CDCl3, 400 MHz): δ 8.30 (d, J=6.8 Hz, 1H), 8.17 (s, 1H), 7.45 (dd, J=8.4, 6.8 Hz, 1H), 7.33 (s, 1H), 7.16 (d, J=8.4 Hz, 1H), 4.49 (q, J=6.8 Hz, 1H), 4.49-4.39 (me, 1H), 2.17-2.10 (m, 1H), 1.96-1.87 (m, 2H), 1.83-1.64 (m, 3H), 1.55-1.43 (m, 3H), 1.47 (d, J=6.8 Hz, 3H), 1.25-1.14 (m, 1H). MS(ES+): m/z=374.13/376.21 [MH+].

reactant | (7R)-2-chloro-8-cyclohexyl-7-methyl-5-(pyridin-3-yl)-7,8-dihydropteridin-6(5H)-one | 0.143 mmol, 51.2 mg | ClC1=NC=2N([C@@H](C(N(C2C=N1)C=1C=NC=CC1)=O)C)C1CCCCC1 | C18H20ClN5O
reactant | mCPBA | 0.150 mmol, 33.7 mg | C1=CC(=CC(=C1)Cl)C(=O)OO | C7H5ClO3
reactant | mCPBA | 0.0455 mmol, 10.2 mg | C1=CC(=CC(=C1)Cl)C(=O)OO | C7H5ClO3
solvent | dichloromethane | 2.5 mL | ClCCl | CH2Cl2
solvent | dichloromethane | 15 mL | ClCCl | CH2Cl2
product | (7R)-2-chloro-8-cyclohexyl-7-methyl-5-(1-oxidopyridin-3-yl)-7,8-dihydropteridin-6(5H)-one | 0.116 mmol, 81% yield | ClC1=NC=2N([C@@H](C(N(C2C=N1)C=1C=[N+](C=CC1)[O-])=O)C)C1CCCCC1 | C18H20ClN5O2
